US07977358B2
C] [5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone
The title compound was prepared from 1-[5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carbonyl]-piperidin-4-one and (S)-1-pyrrolidin-2-yl-methanol in direct analogy to the general procedure used in example 129. MS: 477.3 (MH+).

reactant | 1-[5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carbonyl]-piperidin-4-one | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)N1CCC(CC1)=O | C20H20F3N3O2
reactant | (S)-1-pyrrolidin-2-yl-methanol | N1[C@@H](CCC1)CO | C5H11NO
product | [5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)N1CCC(CC1)N1[C@@H](CCC1)CO | C25H31F3N4O2
